US07745438B2
N-{(S)-2-(3-Cyclopropylmethoxy-phenyl)-1-[(1S,5S,6R,8aR)-6-(2,2-dimethyl-propoxy)-5-methyl-3-oxo-tetrahydro-oxazolo[4,3-c][1,4]oxazin-1-yl]-ethyl}-acetamide
Heat a mixture of (2R,3S,5R)-5-[(1S,2S)-2-Acetylamino-1-hydroxy-3-(3-hydroxy-phenyl)-propyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid benzyl ester (69 mg, 0.13 mmol), cyclopropylmethyl bromide (0.019 ml, 0.195 mmol), cesium carbonate (127 mg, 0.39 mmol) and N,N-dimethylformamide (2 mL) to 60° C. for 18 hours. Cool and dilute with ethyl acetate and wash with saturated sodium chloride, dry with magnesium sulfate and purify on silica gel with dichloromethane/ethyl acetate mixtures to give the desired compound (53 mg). MS(ESI): m/z=475 [M+H]+.

reactant | (2R,3S,5R)-5-[(1S,2S)-2-Acetylamino-1-hydroxy-3-(3-hydroxy-phenyl)-propyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid benzyl ester | 0.13 mmol, 69 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC=C1)O)NC(C)=O)O)OCC(C)(C)C)C | C29H40N2O7
reactant | cyclopropylmethyl bromide | 0.195 mmol, 0.019 ml | C1(CC1)CBr | C4H7Br
reactant | cesium carbonate | 0.39 mmol, 127 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{(S)-2-(3-Cyclopropylmethoxy-phenyl)-1-[(1S,5S,6R,8aR)-6-(2,2-dimethyl-propoxy)-5-methyl-3-oxo-tetrahydro-oxazolo[4,3-c][1,4]oxazin-1-yl]-ethyl}-acetamide | 53 mg | C1(CC1)COC=1C=C(C=CC1)C[C@@H]([C@@H]1OC(N2[C@@H]1CO[C@H]([C@@H]2C)OCC(C)(C)C)=O)NC(C)=O | C26H38N2O6
